US09260416B2
Step 1: 3-Benzylsulfanyl-5-bromo-pyridine
Benzyl mercaptan (1 g, 7.35 mmol) was dissolved in DMF (10 mL) and cooled to 0° C. Sodium hydride (60% in mineral oil, 0.294 g, 7.35 mmol) was added, the ice bath was removed, and the reaction stirred for 15 minutes. 3,5-Dibromopyridine (1.74 g, 7.35 mmol) was added and the reaction was heated to 130° C. After heating for 1 hour the reaction was cooled then diluted with EtOAc and hexanes (1:1) and washed with 4× H2O and brine, with back-extraction. The combined organics were dried over MgSO4, filtered and concentrated. The crude material was purified on silica gel (0-40% EtOAc in hexanes) to yield the title compound.

reactant | Benzyl mercaptan | 7.35 mmol, 1 g | C(C1=CC=CC=C1)S | C7H8S
reactant | Sodium hydride | 7.35 mmol, 0.294 g | [H-].[Na+]
reactant | 3,5-Dibromopyridine | 7.35 mmol, 1.74 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-Benzylsulfanyl-5-bromo-pyridine | C(C1=CC=CC=C1)SC=1C=NC=C(C1)Br | C12H10BrNS
